US07160887B1
5% carbon-palladium (3.2 g) was added to an ethyl acetate (300 ml) solution of tert-butyl[3-(5-benzyloxy-2-nitrophenoxy)benzyl]carbamate (10.5 g, 23.3 mmols). The resulting mixture was hydrogenated at room temperature under atmospheric pressure. The catalyst was removed through filtration, and the filtrate was concentrated under reduced pressure to give a brown oil of tert-butyl[3-(2-amino-5-hydroxyphenoxy)benzyl]carbamate (7.6 g, 98.8%).

reactant | tert-butyl[3-(5-benzyloxy-2-nitrophenoxy)benzyl]carbamate | 23.3 mmols, 10.5 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)[N+](=O)[O-])=O | C25H26N2O6
catalyst | carbon palladium | 3.2 g | [C].[Pd]
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl[3-(2-amino-5-hydroxyphenoxy)benzyl]carbamate | 7.6 g, 98.8% | C(C)(C)(C)OC(NCC1=CC(=CC=C1)OC1=C(C=CC(=C1)O)N)=O | C18H22N2O4
